US04032523
A-34. N,N-Diethyl-6-methyl-2-(4-pyridinyl)-4-pyrimidinamine
A mixture containing 8.2 g. of 4-chloro-6-methyl-2-(4-pyridinyl)pyrimidine, 8.7 g. of diethylamine hydrochloride, 100 ml. of ethanol, 6 g. of potassium carbonate and 10 ml. of water was refluxed with stirring for eight hours and then concentrated in vacuo to dryness. The residue was swirled in water and the solid collected. The solid was dissolved in boiling isopropyl alcohol, the hot solution treated with decolorizing charcoal and filtered, and the hot filtrate allowed to cool. The filtrate was then saturated with gaseous hydrogen chloride, ether was added to turbidity and the mixture was allowed to stand. The separated solid was collected and dried in vacuo at 80° C. to yield 7.4 g. of N,N-diethyl-6-methyl-2-(4-pyridinyl)-4-pyrimidinamine dihydrochloride, m.p. 205°-208° C.

reactant | 4-chloro-6-methyl-2-(4-pyridinyl)pyrimidine | ClC1=NC(=NC(=C1)C)C1=CC=NC=C1 | C10H8ClN3
reactant | diethylamine hydrochloride | Cl.C(C)NCC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-diethyl-6-methyl-2-(4-pyridinyl)-4-pyrimidinamine dihydrochloride | Cl.Cl.C(C)N(C1=NC(=NC(=C1)C)C1=CC=NC=C1)CC
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N,N-Diethyl-6-methyl-2-(4-pyridinyl)-4-pyrimidinamine | C(C)N(C1=NC(=NC(=C1)C)C1=CC=NC=C1)CC | C14H18N4
